US06043260
2,4-Dichloro-6-methyl-1-oxy-nicotinic acid methyl ester.
Urea hydrogen peroxide addition compound (98% pure) (3.860 g, 40.9 mmol) was added to a stirring solution of 2,4-dichloro-6-methyl-nicotinic acid methyl ester (3.000 g, 13.6 mmol) in trifluoroacetic acid (15 ml) under nitrogen. The reaction mixture was stirred at room temperature for 18 hr. Additional urea-hydrogen peroxide addition compound (0.640 g, 6.8 mmol) was added and the reaction stirred for an additional 3 hr. Reaction mixture was poured over ice-water and stirred rapidly. The mixture was treated with sodium thiosulfate, adjusted to pH 11 with 2N aqueous NaOH and extracted 3 times with chloroform. The combined chloroform extracts were washed with water, brine, dried over sodium sulfate and concentrated to give 2.98 g (93%) of the title compound of Preparation C. 1H NMR (CDCl3) δ 7.26 (s,1H), 3.98(s,3H), 2.54(s,3H) ppm.

reactant | Urea hydrogen peroxide | OO.NC(=O)N
reactant | 2,4-dichloro-6-methyl-nicotinic acid methyl ester | 13.6 mmol, 3.000 g | COC(C1=C(N=C(C=C1Cl)C)Cl)=O | C8H7Cl2NO2
reactant | urea hydrogen peroxide | NC(=O)N.OO
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | NaOH | 2N | [OH-].[Na+]
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2,4-Dichloro-6-methyl-1-oxy-nicotinic acid methyl ester | 2.98 g, 93% | CC1=[N+](C(=C(C(=C1)Cl)C(=O)OC)Cl)[O-] | C8H7Cl2NO3
